US04226775
A 0.01 mole sample of 3-benzoyl-2-(phenyl)propionic acid is dissolved in tetrahydrofuran and 0.01 mole of N,N-carbonyldiimidazole added. After stirring 3 hours at room temperature, 0.01 mole of L-proline t-butyl ester is added. After 24 hours the solvent is removed and 1-[3-benzoyl-2-(phenyl)-propionyl]-L-proline t-butyl ester isolated. The preceding compound is reacted with trifluoroacetic acid to remove the t-butyl group. Separation of isomers A and B is carried out as described for Example 69. Reaction of the isomers with bromine is acetic acid and reaction of the 1-[3-bromo-3-benzoyl-2-(phenyl)propionyl]-L-proline isomers with sodium thioacetate in acetonitrile as for Example 69 gives the products of the example. The product from isomer A is separated by chromatography to give [S-(R*,R*)] and [S-(R*,S*)]-1-[3-acetylthio-3-benzoyl-2-(phenyl)propionyl]-L-proline.

reactant | 3-benzoyl-2-(phenyl)propionic acid | C(C1=CC=CC=C1)(=O)CC(C(=O)O)C1=CC=CC=C1 | C16H14O3
reactant | N,N-carbonyldiimidazole | 0.01 mole | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | L-proline t-butyl ester | 0.01 mole | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[3-benzoyl-2-(phenyl)-propionyl]-L-proline t-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CC(C1=CC=CC=C1)=O)C1=CC=CC=C1)=O)=O | C25H29NO4
